US06998412B2
1-(2-Thenoylamino)-2-propanone
To 44.0 ml of a suspension of 16.70 g of sodium 2-(2-thenoylamino)acetate in β-picoline, 42.7 ml of acetic anhydride was added, and stirred for 3 hours at room temperature. After ice-cooling, 26.3 ml of ethanol, 129.7 ml of water and 45.2 ml of conc. hydrochloric acid were slowly added dropwise in sequence, and the mixture was stirred for 15 minutes as it is. After removal of ice-bath, the mixture was stirred for another 15 minutes at room temperature. Water (250 ml) was added and the precipitated crystals were collected, and washed with water. To the crystals was added 37.0 ml of water, and the mixture was heated to reflux for 1 hour. After 14.0 g of sodium chloride was added, the mixture was heated to reflux for another 1 hour. The reaction solution was extracted with ethyl acetate, and dried over anhydrous magnesium sulfate. After addition of activated carbon (Kyoryoku-sirasagi® MOIWY433), the mixture was stirred for 30 minutes at room temperature. The solvent was distilled off under reduced pressure. The residue was crystallized by addition of t-butyl methyl ether to provide 7.15 g of the objective compound as pale brown crystals.

reactant | sodium 2-(2-thenoylamino)acetate | 16.70 g | C1(=CC=CS1)C(=O)NCC(=O)[O-].[Na+]
reactant | ethanol | 26.3 ml | C(C)O | C2H6O
reactant | water | 129.7 ml | O | H2O
reactant | hydrochloric acid | 45.2 ml | Cl | ClH
solvent | β-picoline | N1=CC(=CC=C1)C | C6H7N
solvent | acetic anhydride | 42.7 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2-Thenoylamino)-2-propanone | 7.15 g | C1(=CC=CS1)C(=O)NCC(C)=O | C8H9NO2S
